US07470716B2
3-tert-butoxycarbonylamino-N-(ethoxycarbonylmethyl)-N-(but-2-ynyl)-N′-cyano-piperidin-1-carboxamidine
10.0 g 1-ethoxycarbonylmethyl-1-(but-2-ynyl)-3-cyano-2-phenyl-isourea are added to a mixture of 10.0 g 3-tert-butoxycarbonylaminopiperidine and 4.8 g potassium carbonate in 50 ml of dimethylformamide. The reaction mixture is stirred for 1 d at ambient temperature and then a further 1.6 g potassium carbonate and 3.0 g 3-tert-butoxycarbonylaminopiperidine are added. After another 3 d at ambient temperature water is added and the mixture is extracted with ethyl acetate. The organic extracts are dried over sodium sulphate, the solvent is removed, and the residue is purified on silica gel (cyclohexane/ethyl acetate 5:1->1:2).

reactant | 1-ethoxycarbonylmethyl-1-(but-2-ynyl)-3-cyano-2-phenyl-isourea | 10.0 g | C(C)OC(=O)CN(C(OC1=CC=CC=C1)=NC#N)CC#CC | C16H17N3O3
reactant | 3-tert-butoxycarbonylaminopiperidine | 10.0 g | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-tert-butoxycarbonylaminopiperidine | 3.0 g | C(C)(C)(C)OC(=O)NC1CNCCC1 | C10H20N2O2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-tert-butoxycarbonylamino-N-(ethoxycarbonylmethyl)-N-(but-2-ynyl)-N′-cyano-piperidin-1-carboxamidine | C(C)(C)(C)OC(=O)NC1CN(CCC1)C(=NC#N)N(CC#CC)CC(=O)OCC | C20H31N5O4
